US05359098
7-[6-(4-Hydroxypiperidinyl]hexoxy]-2-phenyl-4H-1-benzopyran-4-one
The compound was prepared by a method similar to Example 3 from 7-hydroxyflavone, 1-bromo-6-chlorohexane, and 4-hydroxypiperidine: mp 130°-131° C.

reactant | 7-hydroxyflavone | OC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 7-[6-(4-Hydroxypiperidinyl]hexoxy]-2-phenyl-4H-1-benzopyran-4-one | OC1CCN(CC1)CCCCCCOC1=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C=C1 | C26H31NO4
